US04596819
[S-(R*,R*)]-2-[[[1-[[(Carboxymethyl)thio]methyl]-3-methylbutyl][(1,1-dimethylethoxy)carbonyl]amino]methyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester
To a 1 l flask containing 12.84 g of [S-(R*,R*)]2-[[[1-[[(carboxymethyl)thio]methyl]-3-methylbutyl]amino]methyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester add 200 ml methylene chloride, 6.78 ml triethylamine, and 5.34 g ditertbutyl dicarbonate. Stir at 25° C. overnight. Add 1.0 g di-tert-butyl dicarbonate, stir at 25° C. for eight hours, then refrigerate for three days.

reactant | 2-[[[1-[[(carboxymethyl)thio]methyl]-3-methylbutyl]amino]methyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester | C(=O)(O)CSCC(CC(C)C)NCC1N(CCC1)C(=O)OCC1=CC=CC=C1 | C21H32N2O4S
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | ditertbutyl dicarbonate | 5.34 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | 6.78 ml | C(C)N(CC)CC | C6H15N
product | 2-[[[1-[[(Carboxymethyl)thio]methyl]-3-methylbutyl][(1,1-dimethylethoxy)carbonyl]amino]methyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester | C(=O)(O)CSCC(CC(C)C)N(C(=O)OC(C)(C)C)CC1N(CCC1)C(=O)OCC1=CC=CC=C1 | C26H40N2O6S
